US06541504B1
3-(3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one
To a suspension of sodium hydride (6.0 g, 150 mmol, 60% in mineral oil) in 300 mL DMF was added oxindole (10.0 g, 75.1 mmol) in 50 mL DMF over 8 min. After stirring for 15 min at room temperature, a solution of phthalide (13.1 g, 97.6 mmol) in 50 mL DMF was added over 1 min. The mixture was stirred for 1.25 h, then poured into 1100 mL H2O. Addition of 4% aqueous HCl solution gave a yellow solid which was filtered and rinsed with H2O to give the title compound (8.75 g, 47%).

reactant | sodium hydride | 150 mmol, 6.0 g | [H-].[Na+]
reactant | oxindole | 75.1 mmol, 10.0 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | phthalide | 97.6 mmol, 13.1 g | C1(=O)OCC2=CC=CC=C12 | C8H6O2
reactant | HCl | Cl | ClH
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | H2O | 1100 mL | O | H2O
product | 3-(3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one | 8.75 g, 47% | C1(OCC2=CC=CC=C12)=C1C(NC2=CC=CC=C12)=O | C16H11NO2
